US08865713B2
Step D: 1-(5-Chloro-6-ethanesulfinyl-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid.
To a solution of 1-(5-chloro-6-ethanesulfinyl-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester (100 mg, 0.273 mmol), THF (1.0 mL), and water (0.33 mL) was added lithium hydroxide (31.3 mg, 0.818 mmol). The mixture was sonicated briefly, and stirred at 23° C. for 56 h. The solvent was evaporated, water was added, and the resulting solution was acidified to pH 1 with 1M aq. HCl. The precipitate was collected to yield the titled compound (79.1 mg, 85% yield). MS (ESI/CI): mass calcd. for C13H11ClN4O3S, 338.0; m/z found, 339.0 [M+H]+. 1H NMR (400 MHz, DMSO-d6, tautomeric broadening): 13.88 (br s, 1H), 13.01 (br s, 1H), 8.94 (s, 1H), 8.40 (s, 1H), 8.03-7.55 (m, 2H), 3.23-3.11 (m, 1H), 2.89-2.78 (m, 1H), 1.08 (t, J=7.4 Hz, 3H).

reactant | 1-(5-chloro-6-ethanesulfinyl-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.273 mmol, 100 mg | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1)C=C(C(=C2)Cl)S(=O)CC | C15H15ClN4O3S
reactant | THF | 1.0 mL | C1CCOC1 | C4H8O
reactant | lithium hydroxide | 0.818 mmol, 31.3 mg | [OH-].[Li+]
solvent | water | 0.33 mL | O | H2O
product | 1-(5-Chloro-6-ethanesulfinyl-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid | 79.1 mg, 85% yield | ClC1=CC2=C(NC(=N2)N2N=CC(=C2)C(=O)O)C=C1S(=O)CC | C13H11ClN4O3S
